### PR TITLE
[Merged by Bors] - feat(Analysis/InnerProductSpace): Add instance for quotient of InnerProductSpace

### PR DESCRIPTION
**Pull request by TJHeeringa**
If a subspace `K` of an inner product space `E` admits an orthogonal projection, then the quotient `E ⧸ K` is isometrically isomorphic to the orthogonal complement `Kᗮ` of `K`. This PR constructs this isometry and uses it to define the inner product space on the quotient `E ⧸ K`.

---

Couldn't find the inner product space instance for a quotient of an inner product space. After confirming at [#Is there code for X? > Quotient of inner product space is inner product space](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/Quotient.20of.20inner.20product.20space.20is.20inner.20product.20space/with/592464432), I made this PR.

Defines an innerProductSpace instance on the quotient based on the isometry with the orthogonal complement, which is a closed subspace of the full space and thus has an innerProductSpace instance.

AI usage:
Didn't understand how to properly apply `quotient_norm_mk_eq K.toAddSubgroup x`. Claude suggested using convert. Otherwise no AI used, aside from acting as secondary Loogle. 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean [hunk 1]
```diff
@@ -141,4 +141,37 @@ theorem sndL_comp_coe_orthogonalDecomposition :
...
+      have hy : y = Submodule.Quotient.mk x :=
+        f.injective (hfy.trans (K.quotientEquivOfIsCompl_apply_mk_coe Kᗮ
+          Submodule.isCompl_orthogonal_of_hasOrthogonalProjection ⟨x, hx⟩).symm)
+      rw [hfy, Submodule.coe_norm, ← Submodule.norm_orthogonalProjection_apply Kᗮ hx,
+          Submodule.orthogonalProjection_orthogonal, Submodule.coe_norm,
+          Submodule.starProjection_minimal, hy, eq_comm]
+      convert (quotient_norm_mk_eq K.toAddSubgroup x) using 2
+      rw [sInf_image', ← Equiv.iInf_comp (Equiv.neg K)]
+      simp [Equiv.neg, sub_eq_add_neg]
+}
```
Comment (wwylele) [inline Mathlib/Analysis/InnerProductSpace/ProdL2.lean]:
```suggestion
def quotLinearEquivOrthogonal : (E ⧸ K) ≃ₗᵢ[𝕜] ↥Kᗮ where
  __ := K.quotientEquivOfIsCompl Kᗮ Submodule.isCompl_orthogonal_of_hasOrthogonalProjection
  norm_map' y := by
    set f := K.quotientEquivOfIsCompl Kᗮ Submodule.isCompl_orthogonal_of_hasOrthogonalProjection
    obtain ⟨x, hx, hfy⟩ : ∃ x : E, ∃ hx : x ∈ Kᗮ, f y = ⟨x, hx⟩ :=
      ⟨(f y).1, (f y).2, (Subtype.eta (f y) (f y).2).symm⟩
    have hy : y = Submodule.Quotient.mk x :=
      f.injective (hfy.trans (K.quotientEquivOfIsCompl_apply_mk_coe Kᗮ
        Submodule.isCompl_orthogonal_of_hasOrthogonalProjection ⟨x, hx⟩).symm)
    rw [hfy, Submodule.coe_norm, ← Submodule.norm_orthogonalProjection_apply Kᗮ hx,
        Submodule.orthogonalProjection_orthogonal, Submodule.coe_norm,
        Submodule.starProjection_minimal, hy, eq_comm]
    convert (quotient_norm_mk_eq K.toAddSubgroup x) using 2
    rw [sInf_image', ← Equiv.iInf_comp (Equiv.neg K)]
    simp [Equiv.neg, sub_eq_add_neg]
```
Two changes:
 - `def` follows `camelCase` naming
 - We prefer the `where` syntax. (Same applies to `instQuotientInnerProductSpace` below)

Also, could you add the `simp` lemma? (Not sure if one can make `@[simps]` to generate these

```
@[simp]
theorem coe_quotLinearEquivOrthogonal :
    ⇑(quotLinearEquivOrthogonal K) =
    ⇑(K.quotientEquivOfIsCompl Kᗮ Submodule.isCompl_orthogonal_of_hasOrthogonalProjection) := rfl

@[simp]
theorem coe_quotLinearEquivOrthogonal_symm :
    ⇑(quotLinearEquivOrthogonal K).symm =
    ⇑(K.quotientEquivOfIsCompl Kᗮ Submodule.isCompl_orthogonal_of_hasOrthogonalProjection).symm :=
  rfl
```

**Comment by wwylele** [comment]
I noticed you put these in the `Quotient` namespace, which doesn't seem ideal. If you put them in `Submodule` namespace, one can write `K.quotLinearEquivOrthogonal` with enabled dot notation

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean (hunk 1 above)
Comment (TJHeeringa) [reply Mathlib/Analysis/InnerProductSpace/ProdL2.lean]: `@[simps!]` didn't seem to generate them, so added them as suggested.

**Comment by TJHeeringa** [comment]
-awaiting-author

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean [hunk 2]
```diff
@@ -139,6 +139,44 @@ theorem sndL_comp_coe_orthogonalDecomposition :
     WithLp.sndL 2 𝕜 K Kᗮ ∘L K.orthogonalDecomposition = Kᗮ.orthogonalProjection := by
   ext; simp
 
+/-- If a subspace `K` of an inner product space `E` admits an orthogonal projection, then the
+quotient `E ⧸ K` is isometrically isomorphic to the orthogonal complement `Kᗮ` of `K`. -/
+@[simps!]
```
Comment (wwylele) [inline Mathlib/Analysis/InnerProductSpace/ProdL2.lean]: The simp lemma this generates is 
```
Submodule.quotLinearEquivOrthogonal_apply.{u_1, u_4} {𝕜 : Type u_1} {E : Type u_4} [RCLike 𝕜] [NormedAddCommGroup E]
  [InnerProductSpace 𝕜 E] (K : Submodule 𝕜 E) [K.HasOrthogonalProjection] (a : E ⧸ K) :
  K.quotLinearEquivOrthogonal a =
    ((↑(LinearEquiv.ofBijective (K.mkQ ∘ₗ Kᗮ.subtype) ⋯)).inverse
        ⇑(LinearEquiv.ofBijective (K.mkQ ∘ₗ Kᗮ.subtype) ⋯).symm ⋯ ⋯)
      a
```
which doesn't seem good to me. Let's remove it

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean [hunk 3]
```diff
@@ -139,6 +139,44 @@ theorem sndL_comp_coe_orthogonalDecomposition :
...
+      ⟨(f y).1, (f y).2, (Subtype.eta (f y) (f y).2).symm⟩
+    have hy : y = Submodule.Quotient.mk x :=
+      f.injective (hfy.trans (K.quotientEquivOfIsCompl_apply_mk_coe Kᗮ
+        Submodule.isCompl_orthogonal_of_hasOrthogonalProjection ⟨x, hx⟩).symm)
+    rw [hfy, Submodule.coe_norm, ← Submodule.norm_orthogonalProjection_apply Kᗮ hx,
+        Submodule.orthogonalProjection_orthogonal, Submodule.coe_norm,
+        Submodule.starProjection_minimal, hy, eq_comm]
+    convert (quotient_norm_mk_eq K.toAddSubgroup x) using 2
+    rw [sInf_image', ← Equiv.iInf_comp (Equiv.neg K)]
+    simp [Equiv.neg, sub_eq_add_neg]
```
Comment (wwylele) [inline Mathlib/Analysis/InnerProductSpace/ProdL2.lean]:
```suggestion
    set f := K.quotientEquivOfIsCompl Kᗮ Submodule.isCompl_orthogonal_of_hasOrthogonalProjection
    rw [Submodule.coe_norm, ← Submodule.norm_orthogonalProjection_apply Kᗮ (f y).2,
      Submodule.orthogonalProjection_orthogonal, Submodule.coe_norm,
      Submodule.starProjection_minimal, eq_comm]
    have h : ‖Submodule.Quotient.mk (f y).val‖ =
        sInf ((fun (x : E) ↦ ‖(f y).val + x‖) '' K.toAddSubgroup) :=
      quotient_norm_mk_eq K.toAddSubgroup (f y).1
    convert h using 2
    · simp [f]
    · rw [sInf_image', ← Equiv.iInf_comp (Equiv.neg K)]
      simp
```

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean [hunk 4]
```diff
@@ -139,6 +139,44 @@ theorem sndL_comp_coe_orthogonalDecomposition :
...
+
+@[simp]
+theorem coe_quotLinearEquivOrthogonal_symm :
+    (quotLinearEquivOrthogonal K).symm =
+    (K.quotientEquivOfIsCompl Kᗮ Submodule.isCompl_orthogonal_of_hasOrthogonalProjection).symm :=
+  rfl
+
+noncomputable instance instQuotientInnerProductSpace :
+    InnerProductSpace 𝕜 (E ⧸ K) where
+  inner x y := inner 𝕜 (quotLinearEquivOrthogonal K x) (quotLinearEquivOrthogonal K y)
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/ProdL2.lean]: This needs a lemma characterizing the value of the inner product on elements of the quotient. That lemma should be proven by `rfl`. Then you should have another about `Submodule.Quotient.mk` when the elements are in `Kᗮ` already. That is, something of the form:
```lean
(x y : E) (hx : x ∈ Kᗮ) (hy : y ∈ Kᗮ) : ⟪mk x, mk y⟫ = ⟪x, y⟫
```
Likewise, you should have this lemma for the equivalence defined above.

Comment (TJHeeringa) [inline Mathlib/Analysis/InnerProductSpace/ProdL2.lean]: I realize this has overlap with #38800. When that is merged, the proof of this can become `InnerProductSpace.induced K.quotLinearEquivOrthogonal`.

Comment (TJHeeringa) [reply Mathlib/Analysis/InnerProductSpace/ProdL2.lean]: I have added a couple of theorems of that kind. Let me know if these were the ones that you intended or that I've missed one.

**Comment by TJHeeringa** [comment]
-awaiting-author

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean [hunk 5]
```diff
@@ -139,6 +139,68 @@ theorem sndL_comp_coe_orthogonalDecomposition :
     WithLp.sndL 2 𝕜 K Kᗮ ∘L K.orthogonalDecomposition = Kᗮ.orthogonalProjection := by
   ext; simp
 
+/-- If a subspace `K` of an inner product space `E` admits an orthogonal projection, then the
+quotient `E ⧸ K` is isometrically isomorphic to the orthogonal complement `Kᗮ` of `K`. -/
+def quotLinearEquivOrthogonal : (E ⧸ K) ≃ₗᵢ[𝕜] ↥Kᗮ where
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/ProdL2.lean]: either `quotientLinearIsometryEquivOrthogonal` or just
```suggestion
def quotientEquivOrthogonal : (E ⧸ K) ≃ₗᵢ[𝕜] ↥Kᗮ where
```
I think this is fine since the linear equivalence version is called `quotientEquivOfIsCompl`.

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean [hunk 6]
```diff
@@ -139,6 +139,68 @@ theorem sndL_comp_coe_orthogonalDecomposition :
...
+  inner 𝕜 (K.quotLinearEquivOrthogonal (Submodule.Quotient.mk x))
+    (K.quotLinearEquivOrthogonal (Submodule.Quotient.mk y)) =
+  inner 𝕜 (⟨x, hx⟩: Kᗮ) ⟨y, hy⟩ := by
+simp_rw [← quotLinearEquivOrthogonal_mk]
+
+theorem inner_mk_mk_symm (x y : E) (hx : x ∈ Kᗮ) (hy : y ∈ Kᗮ) :
+  inner 𝕜 (Submodule.Quotient.mk (p:=K) x) (Submodule.Quotient.mk y) =
+  inner 𝕜 (K.quotLinearEquivOrthogonal.symm ⟨x, hx⟩)
+    (K.quotLinearEquivOrthogonal.symm ⟨y, hy⟩) := by
+simp_rw [← quotLinearEquivOrthogonal_mk_symm]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/ProdL2.lean]: Please fix the indentations here. 2 spaces for the proof, and 4 spaces for the rest (like what you did above)

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean [hunk 7]
```diff
@@ -139,6 +139,68 @@ theorem sndL_comp_coe_orthogonalDecomposition :
     WithLp.sndL 2 𝕜 K Kᗮ ∘L K.orthogonalDecomposition = Kᗮ.orthogonalProjection := by
   ext; simp
 
+/-- If a subspace `K` of an inner product space `E` admits an orthogonal projection, then the
+quotient `E ⧸ K` is isometrically isomorphic to the orthogonal complement `Kᗮ` of `K`. -/
+def quotLinearEquivOrthogonal : (E ⧸ K) ≃ₗᵢ[𝕜] ↥Kᗮ where
+  __ := K.quotientEquivOfIsCompl Kᗮ Submodule.isCompl_orthogonal_of_hasOrthogonalProjection
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/ProdL2.lean]: Maybe also add a lemma for
```lean4
@[simp] lemma toLinearEquiv_quotientEquivOrthogonal :
    (quotientEquivOrthogonal K).toLinearEquiv =
      K.quotientEquivOfIsCompl _ K.isCompl_orthogonal_of_hasOrthogonalProjection :=
  rfl
```

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean (hunk 4 above)
Comment (TJHeeringa) [reply Mathlib/Analysis/InnerProductSpace/ProdL2.lean]: I was wrong. Even though the proofs look the same `.induced` uses a different SeminormedAddCommGroup instance: 
```
Type mismatch
  InnerProductSpace.induced K.quotientEquivOrthogonal
has type
  @InnerProductSpace 𝕜 (E ⧸ K) inst✝⁵ (SeminormedAddCommGroup.induced (E ⧸ K) (↥Kᗮ) K.quotientEquivOrthogonal)
but is expected to have type
  @InnerProductSpace 𝕜 (E ⧸ K) inst✝⁵ (Quotient.seminormedAddCommGroup K)
```

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean [hunk 8]
```diff
@@ -139,6 +139,73 @@ theorem sndL_comp_coe_orthogonalDecomposition :
...
+    set f := K.quotientEquivOfIsCompl Kᗮ Submodule.isCompl_orthogonal_of_hasOrthogonalProjection
+    rw [Submodule.coe_norm, ← Submodule.norm_orthogonalProjection_apply Kᗮ (f y).2,
+      Submodule.orthogonalProjection_orthogonal, Submodule.coe_norm,
+      Submodule.starProjection_minimal, eq_comm]
+    have h : ‖Submodule.Quotient.mk (f y).val‖ =
+        sInf ((fun (x : E) ↦ ‖(f y).val + x‖) '' K.toAddSubgroup) :=
+      quotient_norm_mk_eq K.toAddSubgroup (f y).1
+    convert h using 2
+    · simp [f]
+    · rw [sInf_image', ← Equiv.iInf_comp (Equiv.neg K)]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/ProdL2.lean]: You don't need to keep writing `Submodule.` since we're already in the `Submodule` namespace.
```suggestion
    rw [coe_norm, ← norm_orthogonalProjection_apply Kᗮ (f y).2,
      orthogonalProjection_orthogonal, coe_norm, starProjection_minimal, eq_comm]
    have h : ‖Quotient.mk (f y).val‖ = sInf ((fun x ↦ ‖(f y).val + x‖) '' K.toAddSubgroup) :=
      quotient_norm_mk_eq K.toAddSubgroup (f y).1
    convert h using 2
    · simp [f]
    · rw [sInf_image', ← (Equiv.neg K).iInf_comp]
```

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean [hunk 9]
```diff
@@ -139,6 +139,73 @@ theorem sndL_comp_coe_orthogonalDecomposition :
     WithLp.sndL 2 𝕜 K Kᗮ ∘L K.orthogonalDecomposition = Kᗮ.orthogonalProjection := by
   ext; simp
 
+/-- If a subspace `K` of an inner product space `E` admits an orthogonal projection, then the
+quotient `E ⧸ K` is isometrically isomorphic to the orthogonal complement `Kᗮ` of `K`. -/
+def quotientEquivOrthogonal : (E ⧸ K) ≃ₗᵢ[𝕜] ↥Kᗮ where
+  __ := K.quotientEquivOfIsCompl Kᗮ Submodule.isCompl_orthogonal_of_hasOrthogonalProjection
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/ProdL2.lean]: this doesn't really make a difference, but can you do this here and throughout

```suggestion
  __ := K.quotientEquivOfIsCompl Kᗮ K.isCompl_orthogonal_of_hasOrthogonalProjection
```

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean [hunk 10]
```diff
@@ -139,6 +139,73 @@ theorem sndL_comp_coe_orthogonalDecomposition :
...
+      quotient_norm_mk_eq K.toAddSubgroup (f y).1
+    convert h using 2
+    · simp [f]
+    · rw [sInf_image', ← Equiv.iInf_comp (Equiv.neg K)]
+      simp
+
+@[simp]
+theorem coe_quotientEquivOrthogonal :
+    ⇑K.quotientEquivOrthogonal =
+    ⇑(K.quotientEquivOfIsCompl Kᗮ Submodule.isCompl_orthogonal_of_hasOrthogonalProjection) := rfl
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/ProdL2.lean]: no need to add the coercion here
```suggestion
      K.quotientEquivOfIsCompl Kᗮ Submodule.isCompl_orthogonal_of_hasOrthogonalProjection := rfl
```

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean [hunk 11]
```diff
@@ -139,6 +139,73 @@ theorem sndL_comp_coe_orthogonalDecomposition :
...
+
+@[simp]
+theorem coe_quotientEquivOrthogonal_symm :
+    ⇑K.quotientEquivOrthogonal.symm =
+    ⇑(K.quotientEquivOfIsCompl Kᗮ Submodule.isCompl_orthogonal_of_hasOrthogonalProjection).symm :=
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/ProdL2.lean]:
```suggestion
      (K.quotientEquivOfIsCompl Kᗮ Submodule.isCompl_orthogonal_of_hasOrthogonalProjection).symm :=
```

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean [hunk 12]
```diff
@@ -139,6 +139,73 @@ theorem sndL_comp_coe_orthogonalDecomposition :
...
+theorem inner_mk_mk (x y : E) (hx : x ∈ Kᗮ) (hy : y ∈ Kᗮ) :
+    inner 𝕜 (K.quotientEquivOrthogonal (Submodule.Quotient.mk x))
+      (K.quotientEquivOrthogonal (Submodule.Quotient.mk y)) =
+    inner 𝕜 (⟨x, hx⟩: Kᗮ) ⟨y, hy⟩ := by
+  simp_rw [← quotientEquivOrthogonal_mk]
+
+theorem inner_mk_mk_symm (x y : E) (hx : x ∈ Kᗮ) (hy : y ∈ Kᗮ) :
+    inner 𝕜 (Submodule.Quotient.mk (p:=K) x) (Submodule.Quotient.mk y) =
+    inner 𝕜 (K.quotientEquivOrthogonal.symm ⟨x, hx⟩)
+      (K.quotientEquivOrthogonal.symm ⟨y, hy⟩) := by
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/ProdL2.lean]:
```suggestion
      inner 𝕜 (K.quotientEquivOrthogonal.symm ⟨x, hx⟩)
        (K.quotientEquivOrthogonal.symm ⟨y, hy⟩) := by
```

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean [hunk 13]
```diff
@@ -139,6 +139,74 @@ theorem sndL_comp_coe_orthogonalDecomposition :
...
+      quotient_norm_mk_eq K.toAddSubgroup (f y).1
+    convert h using 2
+    · simp [f]
+    · rw [sInf_image', ← Equiv.iInf_comp (Equiv.neg K)]
+      simp
+
+@[simp]
+theorem coe_quotientEquivOrthogonal :
+    K.quotientEquivOrthogonal =
+    (K.quotientEquivOfIsCompl Kᗮ K.isCompl_orthogonal_of_hasOrthogonalProjection) := rfl
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/ProdL2.lean]:
```suggestion
      (K.quotientEquivOfIsCompl Kᗮ K.isCompl_orthogonal_of_hasOrthogonalProjection) :=
  rfl
```

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean [hunk 14]
```diff
@@ -139,6 +139,74 @@ theorem sndL_comp_coe_orthogonalDecomposition :
...
+
+@[simp]
+theorem coe_quotientEquivOrthogonal_symm :
+    K.quotientEquivOrthogonal.symm =
+    (K.quotientEquivOfIsCompl Kᗮ K.isCompl_orthogonal_of_hasOrthogonalProjection).symm :=
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/ProdL2.lean]:
```suggestion
      (K.quotientEquivOfIsCompl Kᗮ K.isCompl_orthogonal_of_hasOrthogonalProjection).symm :=
```

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean [hunk 15]
```diff
@@ -139,6 +139,74 @@ theorem sndL_comp_coe_orthogonalDecomposition :
...
+  rfl
+
+theorem quotientEquivOrthogonal_mk (x : E) (hx : x ∈ Kᗮ) :
+    K.quotientEquivOrthogonal (Quotient.mk x) = ⟨x, hx⟩ := by
+  rw [← K.quotientEquivOfIsCompl_apply_mk_coe Kᗮ
+    K.isCompl_orthogonal_of_hasOrthogonalProjection ⟨x, hx⟩]
+  rfl
+
+theorem quotientEquivOrthogonal_mk_symm (x : E) (hx : x ∈ Kᗮ) :
+    (Quotient.mk x) = K.quotientEquivOrthogonal.symm ⟨x, hx⟩ := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/ProdL2.lean]:
```suggestion
    Quotient.mk x = K.quotientEquivOrthogonal.symm ⟨x, hx⟩ := by
```

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean [hunk 16]
```diff
@@ -139,6 +139,74 @@ theorem sndL_comp_coe_orthogonalDecomposition :
...
+  norm_sq_eq_re_inner y := by rw [inner_self_eq_norm_sq, LinearIsometryEquiv.norm_map]
+
+@[simp]
+theorem inner_eq (x y : E ⧸ K) :
+    inner 𝕜 x y = inner 𝕜 (K.quotientEquivOrthogonal x) (K.quotientEquivOrthogonal y) := rfl
+
+theorem inner_mk_mk (x y : E) (hx : x ∈ Kᗮ) (hy : y ∈ Kᗮ) :
+    inner 𝕜 (K.quotientEquivOrthogonal (Quotient.mk x))
+      (K.quotientEquivOrthogonal (Quotient.mk y)) =
+    inner 𝕜 (⟨x, hx⟩: Kᗮ) ⟨y, hy⟩ := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/ProdL2.lean]: You can make this even nicer.
```suggestion
    inner 𝕜 x y := by
```

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean [hunk 17]
```diff
@@ -139,6 +139,74 @@ theorem sndL_comp_coe_orthogonalDecomposition :
...
+  simp_rw [← quotientEquivOrthogonal_mk]
+
+theorem inner_mk_mk_symm (x y : E) (hx : x ∈ Kᗮ) (hy : y ∈ Kᗮ) :
+    inner 𝕜 (Quotient.mk (p:=K) x) (Quotient.mk y) =
+      inner 𝕜 (K.quotientEquivOrthogonal.symm ⟨x, hx⟩)
+        (K.quotientEquivOrthogonal.symm ⟨y, hy⟩) := by
+  simp_rw [← quotientEquivOrthogonal_mk_symm]
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/ProdL2.lean]: I'd be tempted to delete this one.

**Review by j-loreaux — COMMENTED** [review]
The `InnerProductSpace` scope is open. Can you please use the `⟪_, _⟫_𝕜` notation for the inner product?

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean (hunk 17 above)
Comment (TJHeeringa) [reply Mathlib/Analysis/InnerProductSpace/ProdL2.lean]: Removed it because we can go forward using 
`rw [K.quotientEquivOrthogonal_mk_symm x hx, K.quotientEquivOrthogonal_mk_symm y hy]`
and backward using
`simp_rw [← quotientEquivOrthogonal_mk_symm]`.

If it needs to be kept, its easy to put back.

**Comment by TJHeeringa** [comment]
-awaiting-author

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean [hunk 18]
```diff
@@ -139,6 +139,70 @@ theorem sndL_comp_coe_orthogonalDecomposition :
...
+    have h : ‖Quotient.mk (f y).val‖ = sInf ((fun (x : E) ↦ ‖(f y).val + x‖) '' K.toAddSubgroup) :=
+      quotient_norm_mk_eq K.toAddSubgroup (f y).1
+    convert h using 2
+    · simp [f]
+    · rw [sInf_image', ← Equiv.iInf_comp (Equiv.neg K)]
+      simp
+
+@[simp]
+theorem coe_quotientEquivOrthogonal :
+    K.quotientEquivOrthogonal =
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/ProdL2.lean]: you need to keep the coercion `⇑` in the LHS or the RHS
```suggestion
    ⇑K.quotientEquivOrthogonal =
```

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean [hunk 19]
```diff
@@ -139,6 +139,70 @@ theorem sndL_comp_coe_orthogonalDecomposition :
...
+      (K.quotientEquivOfIsCompl Kᗮ K.isCompl_orthogonal_of_hasOrthogonalProjection) :=
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/ProdL2.lean]:
```suggestion
      K.quotientEquivOfIsCompl Kᗮ K.isCompl_orthogonal_of_hasOrthogonalProjection :=
```

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean [hunk 20]
```diff
@@ -139,6 +139,70 @@ theorem sndL_comp_coe_orthogonalDecomposition :
...
+  rfl
+
+@[simp]
+theorem coe_quotientEquivOrthogonal_symm :
+    K.quotientEquivOrthogonal.symm =
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/ProdL2.lean]:
```suggestion
    ⇑K.quotientEquivOrthogonal.symm =
```

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean [hunk 21]
```diff
@@ -139,6 +139,70 @@ theorem sndL_comp_coe_orthogonalDecomposition :
...
+lemma toLinearEquiv_quotientEquivOrthogonal :
+    (quotientEquivOrthogonal K).toLinearEquiv =
+      K.quotientEquivOfIsCompl _ K.isCompl_orthogonal_of_hasOrthogonalProjection :=
+  rfl
+
+theorem quotientEquivOrthogonal_mk (x : E) (hx : x ∈ Kᗮ) :
+    K.quotientEquivOrthogonal (Quotient.mk x) = ⟨x, hx⟩ := by
+  rw [← K.quotientEquivOfIsCompl_apply_mk_coe Kᗮ
+    K.isCompl_orthogonal_of_hasOrthogonalProjection ⟨x, hx⟩]
+  rfl
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/ProdL2.lean]:
```suggestion
  simp [← K.quotientEquivOfIsCompl_apply_mk_right
    K.isCompl_orthogonal_of_hasOrthogonalProjection ⟨x, hx⟩]
```

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean [hunk 22]
```diff
@@ -139,6 +139,70 @@ theorem sndL_comp_coe_orthogonalDecomposition :
...
+
+theorem quotientEquivOrthogonal_mk_symm (x : E) (hx : x ∈ Kᗮ) :
+    Quotient.mk x = K.quotientEquivOrthogonal.symm ⟨x, hx⟩ := by
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/ProdL2.lean]:
```suggestion
    K.quotientEquivOrthogonal.symm ⟨x, hx⟩ = Quotient.mk x := by
```

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean [hunk 23]
```diff
@@ -139,6 +139,70 @@ theorem sndL_comp_coe_orthogonalDecomposition :
...
+  rw [← K.quotientEquivOfIsCompl_symm_apply Kᗮ
+    K.isCompl_orthogonal_of_hasOrthogonalProjection ⟨x, hx⟩]
+  rfl
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/ProdL2.lean]:
```suggestion
  simp
```

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean [hunk 24]
```diff
@@ -139,6 +139,70 @@ theorem sndL_comp_coe_orthogonalDecomposition :
...
+      K.quotientEquivOfIsCompl _ K.isCompl_orthogonal_of_hasOrthogonalProjection :=
+  rfl
+
+theorem quotientEquivOrthogonal_mk (x : E) (hx : x ∈ Kᗮ) :
+    K.quotientEquivOrthogonal (Quotient.mk x) = ⟨x, hx⟩ := by
+  rw [← K.quotientEquivOfIsCompl_apply_mk_coe Kᗮ
+    K.isCompl_orthogonal_of_hasOrthogonalProjection ⟨x, hx⟩]
+  rfl
+
+theorem quotientEquivOrthogonal_mk_symm (x : E) (hx : x ∈ Kᗮ) :
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/ProdL2.lean]:
```suggestion
theorem quotientEquivOrthogonal_symm_eq_mk (x : E) (hx : x ∈ Kᗮ) :
```

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean [hunk 25]
```diff
@@ -139,6 +139,70 @@ theorem sndL_comp_coe_orthogonalDecomposition :
...
+noncomputable instance instQuotientInnerProductSpace :
+    InnerProductSpace 𝕜 (E ⧸ K) where
+  inner x y := ⟪K.quotientEquivOrthogonal x, K.quotientEquivOrthogonal y⟫_𝕜
+  add_left x y z := by rw [map_add, inner_add_left]
+  smul_left x y r := by rw [map_smul, inner_smul_left]
+  conj_inner_symm x y := inner_conj_symm _ _
+  norm_sq_eq_re_inner y := by rw [inner_self_eq_norm_sq, LinearIsometryEquiv.norm_map]
+
+@[simp]
+theorem inner_eq (x y : E ⧸ K) :
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/ProdL2.lean]: maybe
```suggestion
theorem inner_quotient_eq (x y : E ⧸ K) :
```

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean [hunk 26]
```diff
@@ -139,6 +139,70 @@ theorem sndL_comp_coe_orthogonalDecomposition :
...
+    ⟪x, y⟫_𝕜 = ⟪K.quotientEquivOrthogonal x, K.quotientEquivOrthogonal y⟫_𝕜 :=
+  rfl
+
+theorem inner_mk_mk (x y : E) (hx : x ∈ Kᗮ) (hy : y ∈ Kᗮ) :
+    ⟪K.quotientEquivOrthogonal (Quotient.mk x), K.quotientEquivOrthogonal (Quotient.mk y)⟫_𝕜 =
+      ⟪x, y⟫_𝕜 := by
+  rw [K.quotientEquivOrthogonal_mk x hx, K.quotientEquivOrthogonal_mk y hy]
+  rfl
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/ProdL2.lean]: If this is about `inner_mk_mk` then I think this is better
```suggestion
    ⟪Quotient.mk (p := K) x, Quotient.mk y⟫_𝕜 = ⟪x, y⟫_𝕜 := by
  simp [K.quotientEquivOrthogonal_mk x hx, K.quotientEquivOrthogonal_mk y hy]
```

File: Mathlib/Analysis/InnerProductSpace/ProdL2.lean [hunk 27]
```diff
@@ -139,6 +139,65 @@ theorem sndL_comp_coe_orthogonalDecomposition :
...
+  smul_left x y r := by rw [map_smul, inner_smul_left]
+  conj_inner_symm x y := inner_conj_symm _ _
+  norm_sq_eq_re_inner y := by rw [inner_self_eq_norm_sq, LinearIsometryEquiv.norm_map]
+
+@[simp]
+theorem inner_quotient_eq (x y : E ⧸ K) :
+    ⟪x, y⟫_𝕜 = ⟪K.quotientEquivOrthogonal x, K.quotientEquivOrthogonal y⟫_𝕜 :=
+  rfl
+
+theorem inner_mk_mk (x y : E) (hx : x ∈ Kᗮ) (hy : y ∈ Kᗮ) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/ProdL2.lean]: otherwise it's not clear what `mk` refers to.
```suggestion
theorem Quotient.inner_mk_mk (x y : E) (hx : x ∈ Kᗮ) (hy : y ∈ Kᗮ) :
```

**Review by j-loreaux — COMMENTED** [review]
Please add an informative PR description, and then you can merge this.

bors d+
